US09428465B2
N-hexyl-5-methylamino-2,4-dioxo-pyrimidine-1-carboxamide
5-(Benzyl(methyl)amino)-N-hexyl-2,4-dioxo-pyrimidine-1-carboxamide(0.10 g, 0.28 mmol) was dissolved in EtOAc (30 mL) and hydrogenated in an H-Cube apparatus (using 10% Pd/C as catalyst, 1 bar hydrogen pressure, at 40° C.). The reaction mixture was concentrated under reduced pressure. The crude was purified by column chromatography using SI (2 g) cartridge (cyclohexane:EtOAc 85:15) to afford the title compound (0.02 g, 27%) as white powder. 1H NMR (400 MHz, DMSO-d6): δ 0.78-0.99 (m, 3H), 1.17-1.36 (m, 6H), 1.50 (dd, J=14.0, 7.0 Hz, 2H), 2.57 (s, 3H), 3.27 (dd, J=5.7, 6.9 Hz, 2H), 5.01 (s, 1H), 7.05 (s, 1H), 9.32 (t, J=5.7 Hz, 1H), 11.87 (s, 1H). 13C NMR (101 MHz, CDCl3): δ 13.85, 21.96, 25.89, 28.71, 29.70, 30.82, 40.21, 106.74, 126.49, 150.01, 150.68, 160.01. MS (ESI) m/z: 267 [M-H]−.

reactant | 5-(Benzyl(methyl)amino)-N-hexyl-2,4-dioxo-pyrimidine-1-carboxamide | 0.28 mmol, 0.10 g | C(C1=CC=CC=C1)N(C=1C(NC(N(C1)C(=O)NCCCCCC)=O)=O)C | C19H26N4O3
reactant | hydrogen | [H][H] | H2
solvent | EtOAc | 30 mL | CCOC(=O)C | C4H8O2
catalyst | Pd/C | [Pd] | Pd
product | N-hexyl-5-methylamino-2,4-dioxo-pyrimidine-1-carboxamide | 0.02 g, 27% | C(CCCCC)NC(=O)N1C(NC(C(=C1)NC)=O)=O | C12H20N4O3
